US04073917
1-n-Butoxy-2-(2'-diisopropylaminoethoxy)-benzene
To 750 ml of absolute ethanol was added gradually 13.8 g (0.60 mole) of metallic sodium cut into pieces. After all the sodium had reacted 49.8 g (0.30 mole) of o-butoxyphenol was added. The solution was cooled down in ice-water whereupon a solution of 60.0 g (0.30 mole) of diisopropylaminoethylchloride hydrochloride in 150 ml of absolute ethanol was added rapidly with stirring. The reaction mixture was then boiled under reflux for 5 hours.

reactant | sodium | 0.60 mole, 13.8 g | [Na] | Na
reactant | o-butoxyphenol | 0.30 mole, 49.8 g | C(CCC)OC1=C(C=CC=C1)O | C10H14O2
reactant | diisopropylaminoethylchloride hydrochloride | 0.30 mole, 60.0 g | Cl.C(C)(C)N(C(C)C)CCCl
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | 1-n-Butoxy-2-(2'-diisopropylaminoethoxy)-benzene | C(CCC)OC1=C(C=CC=C1)OCCN(C(C)C)C(C)C | C18H31NO2
